US07732477B2
Methyl7-bromo-1-benzothiophene-2-carboxylate
Using 27.8 g (137.1 mmol) of 3-bromo-2-fluorobenzaldehyde, 8.2 g (205.7 mmol) of sodium hydride (60% pure) and 16.0 g (150.9 mmol) of methyl mercaptoacetate, 20.57 g of a mixture of the title compound and the corresponding acid (about 1:1) are obtained.

reactant | 3-bromo-2-fluorobenzaldehyde | 137.1 mmol, 27.8 g | BrC=1C(=C(C=O)C=CC1)F | C7H4BrFO
reactant | sodium hydride | 205.7 mmol, 8.2 g | [H-].[Na+]
reactant | methyl mercaptoacetate | 150.9 mmol, 16.0 g | SCC(=O)OC | C3H6O2S
product | Methyl7-bromo-1-benzothiophene-2-carboxylate | COC(=O)C=1SC2=C(C1)C=CC=C2Br | C10H7BrO2S
